US07851473B2
(4) N-1,2-Benzisoxazol-3-yl-3-methyl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2-methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (390 mg, 1.50 mmol), bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate (363 mg, 0.750 mmol), diisopropylethylamine (0.131 ml, 0.750 mmol) and dimethylsulfoxide (10 ml) was stirred at 70° C. for 2 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (220 mg, 69.8%) as a solid.

reactant | 2-methyl-1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.50 mmol, 390 mg | CC1N(CCNC1)C1=NC(=NS1)C1=CC=CC=C1 | C13H16N4S
reactant | bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate | 0.750 mmol, 363 mg | O1N=C(C2=C1C=CC=C2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H8Cl6N2O5
reactant | diisopropylethylamine | 0.750 mmol, 0.131 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-1,2-Benzisoxazol-3-yl-3-methyl-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)N2CC(N(CC2)C2=NC(=NS2)C2=CC=CC=C2)C | C21H20N6O2S
